US08703758B2
C) tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate
To a solution of tert-butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate (1.03 g) in acetic acid (10 mL)/ethanol (10 mL) was added platinum oxide (500 mg), and the reaction mixture was stirred at room temperature for 5 hr under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated. The obtained residue was dissolved in 0.5 M hydrochloric acid, and the solution was washed with ethyl acetate, basified with potassium carbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (805 mg).

reactant | tert-butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate | 1.03 g | C[C@@H](COC1=CC=NC=C1)NC(OC(C)(C)C)=O | C13H20N2O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 500 mg | [Pt]=O
product | tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate | 805 mg | C[C@@H](COC1CCNCC1)NC(OC(C)(C)C)=O | C13H26N2O3
